US04327026
12.7 g (39.2 mmol) of 7-acetyl-1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one in 240 ml of methanol are treated in the cold while stirring with 743 mg (19.6 mmol) of sodium borohydride. The mixture is subsequently stirred at room temperature for 17 hours, treated with water and then with 2 N sulphuric acid and extracted with methylene chloride. The organic phase is washed with water, dried and evaporated. The residue is chromatographed on 500 g of silica gel using ethyl acetate/toluene (1:1) as the elution agent, and gives, from cyclohexane, 1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-(1-hydroxyethyl)-2H-1,4-benzodiazepin-2-one of melting point 55°-57°.

reactant | 7-acetyl-1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 39.2 mmol, 12.7 g | C(C)(=O)C=1C=CC2=C(C(=NCC(N2CC)=O)C2=C(C=CC=C2)F)C1 | C19H17FN2O2
reactant | sodium borohydride | 19.6 mmol, 743 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 240 ml | CO | CH4O
product | 1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-(1-hydroxyethyl)-2H-1,4-benzodiazepin-2-one | C(C)N1C(CN=C(C2=C1C=CC(=C2)C(C)O)C2=C(C=CC=C2)F)=O | C19H19FN2O2
